US05935952
In 3 ml of ethanol was suspended 0.30 g of ethyl 1-cyclopropyl-6-fluoro-8-methyl-7-[2-(p-toluenesulfonyl)isoindolin-5-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylate, and 3 ml of 1N aqueous sodium hydroxide solution and 3 ml of dioxane were added to the suspension, after which the resulting mixture was stirred at room temperature for two hours. To the reaction mixture was added 3 ml of 1N hydrochloric acid, and the crystals thus formed were collected by filtration, to obtain 0.27 g of colorless, crystalline 1-cyclopropyl-6-fluoro-8-methyl-7-[2-(p-toluenesulfonyl)isoindolin-5-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid.

reactant | ethyl 1-cyclopropyl-6-fluoro-8-methyl-7-[2-(p-toluenesulfonyl)isoindolin-5-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylate | 0.30 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)C)C=1C=C2CN(CC2=CC1)S(=O)(=O)C1=CC=C(C=C1)C)F)=O)C(=O)OCC | C31H29FN2O5S
reactant | sodium hydroxide | 1N, 3 ml | [OH-].[Na+]
reactant | dioxane | 3 ml | O1CCOCC1 | C4H8O2
reactant | hydrochloric acid | 1N, 3 ml | Cl | ClH
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 1-cyclopropyl-6-fluoro-8-methyl-7-[2-(p-toluenesulfonyl)isoindolin-5-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)C)C=1C=C2CN(CC2=CC1)S(=O)(=O)C1=CC=C(C=C1)C)F)=O)C(=O)O | C29H25FN2O5S
